US04034040
N,N-Bis(2-Hydroxyethyl)-N'-(n-Butyl)-N'-Octadecyl-1,3-Propanediamine
In like manner, N,N-bis(2-hydroxyethyl)-N'-(n-propyl)-N'-octadecyl-1,3-propanediamine is prepared from n-propylbromide. Its picrate salt melts at 105°-106° C.

reactant | N,N-bis(2-hydroxyethyl)-N'-(n-propyl)-N'-octadecyl-1,3-propanediamine | OCCN(CCCN(CCCCCCCCCCCCCCCCCC)CCC)CCO | C28H60N2O2
reactant | n-propylbromide | C(CC)Br | C3H7Br
reactant | picrate | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1[O-]
product | N,N-Bis(2-Hydroxyethyl)-N'-(n-Butyl)-N'-Octadecyl-1,3-Propanediamine | OCCN(CCCN(CCCCCCCCCCCCCCCCCC)CCCC)CCO | C29H62N2O2
